US07816378B2
A solution of methyl 2,6-dichloroisonicotinate (4.8 g, 23.3 mmol) and N-propylmethanesulfonamide (3.8 g, 28.0 mmol) in dioxane (190 mL) was degassed with argon. Potassium phosphate tribasic (6.9 g, 32.6 mmol), xantphos (810 mg, 1.40 mmol) and Pd2 dba3 (427 mg, 0.47 mmol) were added, and the reaction mixture was stirred at 100° C., sealed, for 16 h. The reaction mixture was filtered on cellite, concentrated in vacuo, and purified by flash chromatography (2×300 g silica gel, 0 to 35% EtOAc in hexane) to give methyl 2-chloro-6-[(methylsulfonyl)(propyl)amino]isonicotinate. 1H NMR (400 MHz, CD3OD) δ 7.87 (s, 1H), 7.72 (s, 1H), 3.97 (s, 3H), 3.91 (t, J=7.2 Hz, 2H), 3.14 (s, 3H), 1.68-1.52 (m, 2H), 0.94 (t, J=7.4 Hz, 3H).

reactant | methyl 2,6-dichloroisonicotinate | 23.3 mmol, 4.8 g | ClC=1C=C(C(=O)OC)C=C(N1)Cl | C7H5Cl2NO2
reactant | N-propylmethanesulfonamide | 28.0 mmol, 3.8 g | C(CC)NS(=O)(=O)C | C4H11NO2S
reactant | Potassium phosphate tribasic | 32.6 mmol, 6.9 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | xantphos | 1.40 mmol, 810 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | dioxane | 190 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 dba3 | 0.47 mmol, 427 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | methyl 2-chloro-6-[(methylsulfonyl)(propyl)amino]isonicotinate | ClC=1C=C(C(=O)OC)C=C(N1)N(CCC)S(=O)(=O)C | C11H15ClN2O4S
